US08912186B2
3-Methyl-1,2-phenylenediamine (61 mg) and 3-(2-naphthyl)glutaric anhydride (120 mg) were dissolved in dichloromethane (2 ml) with heating. The solution was stirred at rt for 1 h. The solvent was removed and the residue was dissolved in 1,4-dioxane (1 ml) with heating. 4M HCl in 1,4-dioxane (1 ml) was added and the solution was heated to reflux for 1 h. The precipitate formed was isolated by suction filtration, washed with 1,4-dioxane, and dried to give 4-(4-methyl-2-benzimidazolyl)-3-(2-naphthyl)butanoic acid HCl (162 mg) as beige coloured solid.

reactant | 3-Methyl-1,2-phenylenediamine | 61 mg | CC=1C(=C(C=CC1)N)N | C7H10N2
reactant | 3-(2-naphthyl)glutaric anhydride | 120 mg | C1=C(C=CC2=CC=CC=C12)C1CC(=O)OC(C1)=O | C15H12O3
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-(4-methyl-2-benzimidazolyl)-3-(2-naphthyl)butanoic acid HCl | 162 mg | Cl.CC1=CC=CC=2N=C(NC21)CC(CC(=O)O)C2=CC1=CC=CC=C1C=C2 | InChI=1S/C22H20N2O2.ClH/c1-14-5-4-8-19-22(14)24-20(23-19)12-18(13-21(25)26)17-10-9-15-6-2-3-7-16(15)11-17;/h2-11,18H,12-13H2,1H3,(H,23,24)(H,25,26);1H
